US08097628B2
(b) (2-chloro-4-methylphenyl)methyl acetate
To a solution of (2-chloro-4-methylphenyl)methanol (365 mg, 2.331 mmol) and Et3N (0.390 mL, 2.80 mmol) in Dichloromethane (DCM) (10 mL) at 0° C. AcOCl (0.331 mL, 4.66 mmol) was slowly added and the mixture was left under stirring at 0° C. for 1 hour then at room temperature overnight. Next morning HPLC showed no starting material remaining volatiles were removed under vacuum and resulting crude was dissolved in DCM washed several times with water. Organic layers were dried over Na2SO4 and volatiles removed to afford 453 mg of the final compound as a brown oil.

reactant | (2-chloro-4-methylphenyl)methanol | 2.331 mmol, 365 mg | ClC1=C(C=CC(=C1)C)CO | C8H9ClO
reactant | Et3N | 2.80 mmol, 0.390 mL | CCN(CC)CC | C6H15N
reactant | AcOCl | 4.66 mmol, 0.331 mL | C(=O)(C)OCl | C2H3ClO2
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2-chloro-4-methylphenyl)methyl acetate | 453 mg | C(C)(=O)OCC1=C(C=C(C=C1)C)Cl | C10H11ClO2
